US05126482
In 80 ml of anhydrous ether was dissolved 7.30 g of (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoylchloride, and then 0.83 g of lithium aluminum hydride was portionwise added to the above-obtained solution while the solution was being cooled with ice. The resulting mixture was stirred for 30 minutes. Thereafter, 1N hydrochloric acid was portionwise added to the resulting reaction mixture while the mixture was being cooled with ice, and then a reaction product was extracted with ether. The resulting organic layer was dried with magnesium sulfate, the solvent was removed under reduced pressure, and then the residual product was distilled. Thus, 4.6 g of (S)-(+)-2-fluoro-2-(trifluoromethyl)-1-hexanol was obtained which had the physical properties as mentioned hereinbefore.

reactant | (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoylchloride | 7.30 g | F[C@](C(=O)Cl)(CCCC)C(F)(F)F | C7H9ClF4O
reactant | lithium aluminum hydride | 0.83 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | 80 ml | CCOCC | C4H10O
product | (S)-(+)-2-fluoro-2-(trifluoromethyl)-1-hexanol | 4.6 g | F[C@](CO)(CCCC)C(F)(F)F | C7H12F4O
